US04214094
A solution of 2.0 g of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]propionate in 20 ml of ether is dropwise added to a suspension of 324 mg of lithium aluminum hydride in 20 ml of anhydrous ether over a period of 10 minutes under 10° C. The mixture is stirred for 20 minutes at room temperature and cooled under 10° C., and to the mixture is dropwise added 25 ml of 10% ammonium chloride aqueous solution. An insoluble material is filtered off and the ether layer is separated. The aqueous layer is extracted with ether and both of the ether layers are combined. The extract is washed with a saturated sodium chloride aqueous solution and dried, after which the solvent is distilled off. The residue is collected by filtration, washed with a mixture of n-hexane and diisopropyl ether and dried to give 1.42 g of 2-[4-(4-chloroanilinomethyl)phenoxy]propanol, mp 81° to 83° C.

reactant | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]propionate | 2.0 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C18H20ClNO3
reactant | lithium aluminum hydride | 324 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-[4-(4-chloroanilinomethyl)phenoxy]propanol | 1.42 g | ClC1=CC=C(NCC2=CC=C(OC(CO)C)C=C2)C=C1 | C16H18ClNO2
